US06403584B1
To a solution of 4-(2′,6′-dimethoxyphenyl)-2-benzyloxy-benzoic acid, benzyl ester (0.72 g, 1.58 mmol) in 7.0 ml of CH2Cl2 at −78° C. was added 3.50 mL (3.5 mmol, 1M in toluene) of DIBAL-H. The reaction mixture was allowed to slowly warm to room temperature overnight. After 18 h, the reaction was quenched with saturated Rochelle's solution, diluted with EtOAc and the layers were separated. The organic layer was successively washed with 1N HCl (2×100 ml), saturated NaHCO3 solution (2×50 ml), brine (1×50 ml), dried (MgSO4) and concentrated. The residue was purified by silica gel chromatography eluted with 25% Et2O in hexanes and gave 4-(2′,6′-dimethoxyphenyl)-2-benzyloxy-benzyl alcohol as a white solid.

reactant | 4-(2′,6′-dimethoxyphenyl)-2-benzyloxy-benzoic acid, benzyl ester | 1.58 mmol, 0.72 g | COC1=C(C(=CC=C1)OC)C1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)OCC1=CC=CC=C1 | C29H26O5
reactant | DIBAL-H | 3.5 mmol, 1M, 3.50 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 7.0 ml | C(Cl)Cl | CH2Cl2
product | 4-(2′,6′-dimethoxyphenyl)-2-benzyloxy-benzyl alcohol | COC1=C(C(=CC=C1)OC)C1=CC(=C(CO)C=C1)OCC1=CC=CC=C1 | C22H22O4
